US05219873
1-N-hydroxyl-3-acetyl-1,2,5,6-tetrahydropyridine-O-methyl-oxime
3.5 g of 3-acetyl-pyridine-O-methyl-oxime-N-oxide [J. Heterocyclic Chem. 16 1459, (1979)] is dissolved in 50 cm3 of methanol and cooled to -10° C. 2.4 g of boron and sodium hydride is added, with agitation for 2 hours at ambient temperature followed by evaporation to dryness. The residue is taken up with water and extracted with ethyl acetate. The extracts are dried, evaporated to dryness, and purified by chromatography on silica gel, (eluene: ethyl acetate). 2.85 g of the expected product is obtained. m.p. 94°-96° C., after crystallizing from hexane.

reactant | 3-acetyl-pyridine-O-methyl-oxime-N-oxide | 3.5 g | CO[N+](=C(C)C=1C=NC=CC1)[O-] | C8H10N2O2
reactant | boron | 2.4 g | [B] | B
reactant | sodium hydride | [H-].[Na+]
reactant | methanol | 50 cm3 | CO | CH4O
product | 1-N-hydroxyl-3-acetyl-1,2,5,6-tetrahydropyridine-O-methyl-oxime | 2.85 g | CON=C(C)C=1CN(CCC1)O | C8H14N2O2
